US04355031
N-(Diphenylmethyl)piperazine
A stirred mixture of diphenylmethyl bromide (40 g, 0.16 mol), piperazine (27.8 g, 0.32 mol), potassium iodide (26.8 g, 0.16 mol) and sodium carbonate (86 g, 0.81 mol) in toluene (400 ml) was heated at reflux for 3.5 hr. The reaction mixture was filtered. The filtrate was evaporated to dryness to give 40 g of crude product. The crude product was purified by chromatography using 10% methanol in chloroform as the eluant. Pooling of the appropriate fractions gave 4.5 g of the title compound, NMR (CDCl3) δ1.82 (s,1H), 2.3(t,J=5 Hz,4H), 2.85 (t,J=5 Hz, 4H), 4.2 (s,1H), 7.3 (m,10H).

reactant | diphenylmethyl bromide | 0.16 mol, 40 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)Br | C13H11Br
reactant | piperazine | 0.32 mol, 27.8 g | N1CCNCC1 | C4H10N2
reactant | potassium iodide | 0.16 mol, 26.8 g | [I-].[K+]
reactant | sodium carbonate | 0.81 mol, 86 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-(Diphenylmethyl)piperazine | 4.5 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
